US07902237B2
A mixture of 3-benzylrhodanine (0.50 g, 2.2 mmol), benzaldehyde (0.23 mL, 2.3 mmol) and TEA (0.68 mL, 4.9 mmol) in MeCN (5 mL, anhyd) was heated at reflux. After 2 h the reaction mixture was cooled. Precipitated solids were collected by filtration, triturated with MeCN-Hex and dried under vacuum to yield 3-benzyl-5-benzylidene-2-thioxothiazolidin-4-one, which was used without further purification.

reactant | 3-benzylrhodanine | 2.2 mmol, 0.50 g | C(C1=CC=CC=C1)N1C(SCC1=O)=S | C10H9NOS2
reactant | benzaldehyde | 2.3 mmol, 0.23 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | MeCN | CC#N | C2H3N
product | 3-benzyl-5-benzylidene-2-thioxothiazolidin-4-one | C(C1=CC=CC=C1)N1C(SC(C1=O)=CC1=CC=CC=C1)=S | C17H13NOS2
